US07265120B2
Under nitrogen atmosphere, a solution of Na2CO3 (427 mg) in water (8.8 ml) was added to a suspension of N′-[6-chloro-3-cyano-5-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-pyrazinyl]-N,N-dimethylimidoformamide (346 mg), (2-bromophenyl)boronic acid (503 mg) and tetrakis(triphenylphosphine)palladium (35 mg) in dioxane (22 ml) and the mixture was stirred at 100-105° C. for 4 hours. Dioxane was evaporated under reduced pressure to give a residue. The residue was dissolved in CHCl3, dried over MgSO4, concentrated under reduced pressure and purified by column chromatography on silica gel. By elution with a mixture of n-hexane and EtOAc (70:30 v/v) was obtained 3-amino-5-(2-bromophenyl)-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-pyrazinecarbonitrile as a solid (42 mg) and by elution with a mixture of n-hexane and EtOAc (50:50 v/v) was obtained N′-[6-(2-bromophenyl)-3-cyano-5-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-pyrazinyl]-N,N-dimethylimidoformamide as a solid (360 mg).

reactant | Na2CO3 | 427 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | N′-[6-chloro-3-cyano-5-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-pyrazinyl]-N,N-dimethylimidoformamide | 346 mg | ClC1=C(N=C(C(=N1)N=CN(C)C)C#N)C1=NN(C(C=C1)=O)C(C)C | C15H16ClN7O
reactant | (2-bromophenyl)boronic acid | 503 mg | BrC1=C(C=CC=C1)B(O)O | C6H6BBrO2
solvent | water | 8.8 ml | O | H2O
solvent | dioxane | 22 ml | O1CCOCC1 | C4H8O2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
catalyst | tetrakis(triphenylphosphine)palladium | 35 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-amino-5-(2-bromophenyl)-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-pyrazinecarbonitrile | 42 mg | NC=1C(=NC(=C(N1)C1=C(C=CC=C1)Br)C1=NN(C(C=C1)=O)C(C)C)C#N | C18H15BrN6O
